US06969713B2
i) (R)-3-Ethyl-1-(phenylmethyl)-2,5-piperazinedione
To a stirred solution of (R)—N-BOC-2-aminobutyric acid (3.36 g) and ethyl N-benzylglycine (4.52 g) in dichloromethane (50 ml) at 15° C. was added dicyclohexylcarbodiimide (3.59 g). The temperature was maintained at 10-15° C. for a further 2 h and then allowed to stir at ambient temperature for a further 16 h. The mixture was filtered and the mother liquor collected and solvent evaporated under reduced pressure. The residue was re-dissolved in dichloromethane (20 ml) and hydrogen chloride gas passed through the mixture for 20 minutes. The mixture was quenched with aq. saturated sodium bicarbonate solution and extracted with ethyl acetate, collected, dried (MgSO4) and solvent evaporated under reduced pressure to leave a colourless oil. This was purified by crystallisation from ether/iso-hexane mixtures to give the subtitle compound as a white solid. Yield: 1.35 g

reactant | (R)—N-BOC-2-aminobutyric acid | 3.36 g | C(=O)(OC(C)(C)C)N[C@@H](C(=O)O)CC | C9H17NO4
reactant | ethyl N-benzylglycine | 4.52 g | C(C)N(CC(=O)O)CC1=CC=CC=C1 | C11H15NO2
reactant | dicyclohexylcarbodiimide | 3.59 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (R)-3-Ethyl-1-(phenylmethyl)-2,5-piperazinedione | C(C)[C@@H]1C(N(CC(N1)=O)CC1=CC=CC=C1)=O | C13H16N2O2
